US05457120
Preparation of 3-(Di-n-propylamino ) -5-methylthio-chromane hydrochloride.
To a solution of the product from Part H (620 mg, 2.73 mMol) in toluene (20 mL) were added dipropylamine (0.7 mL, 6 mMol) and p-toluenesulfonic acid (100 mg, 0.52 mMol), and the mixture was heated at reflux with constant water removal (Dean-Stark trap). After 3 hours the reaction mixture was cooled to room temperature and the volatiles removed in vacuo to give a dark reddish-orange residue. This material was dissolved in tetrahydrofuran (40 mL), sodium cyanoborohydride (400 mg, 6.4 mMol) was added and the solution was saturated with hydrogen chloride. The reaction mixture was stirred for 18 hours at room temperature. The reaction mixture was then poured into 15% sodium hydroxide (100 mL) and was stirred vigorously for 2 hours. The reaction mixture was then extracted well with diethyl ether. The organic phases were combined, dried over sodium sulfate, and concentrated in vacuo. The residue was suspended in 10% hydrochloric acid and the aqueous extracted once with diethyl ether. This ether extract was discarded and the remaining aqueous made basic with concentrated ammonium hydroxide and then extracted well with dichloromethane. The combined organics were washed with saturated aqueous sodium chloride, dried over sodium sulfate, and concentrated in vacuo to give a light yellow oil. Purification by flash chromatography (4:1 hexane:diethyl ether+tr. NH4OH) gave the title compound as a colorless oil (420 mg,

reactant | dipropylamine | 6 mMol, 0.7 mL | C(CC)NCCC | C6H15N
reactant | p-toluenesulfonic acid | 0.52 mMol, 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium cyanoborohydride | 6.4 mMol, 400 mg | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-(Di-n-propylamino ) -5-methylthio-chromane hydrochloride | Cl.C(CC)N(C1CSC2=CC=CC(=C2C1)C)CCC | InChI=1S/C16H25NS.ClH/c1-4-9-17(10-5-2)14-11-15-13(3)7-6-8-16(15)18-12-14;/h6-8,14H,4-5,9-12H2,1-3H3;1H
